US08470816B2
To a solution of (3R*,4R*)-1-(tert-butoxycarbonyl)-3-(4-fluoro-2-methylphenyl)piperidine-4-carboxylic acid (4.33 g) synthesized by a known method (WO2006/004195) in toluene (24 mL) were added DPPA (5.30 g) and triethylamine (2.7 mL) at room temperature, and the mixture was stirred at 100° C. for 1 hr. The reaction mixture was cooled, 8N aqueous sodium hydroxide solution (16 mL) was added, and the mixture was stirred at room temperature for 3 hr. The reaction mixture was poured into water, and the resultant product was extracted with ethyl acetate. The organic layer was washed with water and brine and dried, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (NH Chromatorex) (solvent gradient; 30→70% ethyl acetate/hexane) to give tert-butyl (3R*,4R*)-4-amino-3-(4-fluoro-2-methylphenyl)piperidine-1-carboxylic acid (3.79 g, 96%) as a pale yellow oil.

reactant | (3R*,4R*)-1-(tert-butoxycarbonyl)-3-(4-fluoro-2-methylphenyl)piperidine-4-carboxylic acid | 4.33 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)C(=O)O)C1=C(C=C(C=C1)F)C | C18H24FNO4
reactant | DPPA | 5.30 g | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 2.7 mL | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 8N, 16 mL | [OH-].[Na+]
reactant | toluene | 24 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | tert-butyl (3R*,4R*)-4-amino-3-(4-fluoro-2-methylphenyl)piperidine-1-carboxylic acid | 3.79 g, 96% | C(C)(C)(C)C1N(CC[C@H]([C@H]1C1=C(C=C(C=C1)F)C)N)C(=O)O | C17H25FN2O2
